US08106190B2
Diisopropylethylamine and (1S,2S)-1,2-cyclohexandiamine were added to 2-chloro-6-(trifluoromethyl)nicotinic acid, followed by stirring at 100° C. for 30 minutes and at 140° C. for 10 minutes using a microwave reaction device. The reaction liquid was dissolved in acetonitrile, potassium carbonate and 1,4-dibromobutane were added, followed by stirring at 50° C. for 8 hours. By dissolving the residue extracted with chloroform in methanol and THF, adding 1 M sodium hydroxide aqueous solution thereto and carrying out the reaction at 50° C., 2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}-6-(trifluoromethyl)nicotinic acid was obtained.

reactant | Diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S,2S)-1,2-cyclohexandiamine | [C@H]1([C@H](CCCC1)N)N | C6H14N2
reactant | 2-chloro-6-(trifluoromethyl)nicotinic acid | ClC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}-6-(trifluoromethyl)nicotinic acid | N1(CCCC1)[C@@H]1[C@H](CCCC1)NC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C17H22F3N3O2
